US06784200B2
Preparation of N-(3-phenylallyl)-allylamine
A solution of cinnamyl bromide (10 g, 50.7 mmol) in 250 mL tetrahydrofuran was added dropwise to a solution of allyl amine (38 ml, 507 mmol) in 50 mL tetrahydrofuran at 0° C. the mixture was allowed to slowly come to room temperature then stirred 20 hours. The tetrahydrofuran was removed in-vacuo, and the residue was partitioned between 500 mL of ethyl acetate and 200 ml of water. The layers were separated, the organic phase was washed with water followed by brine, then dried over sodium sulfate and concentrated to an amber oil. The oil was purified by flash chromatography on an 8×15 cm silica column, eluting with 5% methanol/chloroform followed by 10% methanol/chloroform. Obtained 7.2 g of an amber oil as product. Yield=81%. NMR (300 MHz, CDCl3) δ7.39-7.20 (m, 5H), 6.54 (d, 1H, J=16 Hz), 6.35-6.26 (m, 1H), 6.01-5.87 (m, 1H), 5.24-5.14 (m, 2H), 3.43 (d, 2H, J=7 Hz), 3.31 (d, 2H, J=6 Hz).

reactant | cinnamyl bromide | 50.7 mmol, 10 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | allyl amine | 507 mmol, 38 ml | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-(3-phenylallyl)-allylamine | 7.2 g, Yield=81% | C1(=CC=CC=C1)C=CCNCC=C | C12H15N
